US04585772
9-(4-Morpholinylsulphonyl)-5-oxo-2,3,5,6-tetrahydroimidazo-[1,2-c]-quinazoline
30 mmols of 5-oxo-2,3,5,6-tetrahydroimidazo-[1,2-c]-quinazoline were added, whilst cooling with ice, to 20 ml of chlorosulphonic acid, and the mixture was stirred for 3 hours at 50° to 60° C. After this solution had been cooled, it was carefully added dropwise to 80 ml of cooled morpholine, and the mixture was thereafter diluted with 150 ml of water. The residue was filtered off under suction, washed with water and boiled up with alcohol.

reactant | 5-oxo-2,3,5,6-tetrahydroimidazo-[1,2-c]-quinazoline | 30 mmols | O=C1NC=2C=CC=CC2C=2N1CCN2 | C10H9N3O
reactant | chlorosulphonic acid | 20 ml | ClS(=O)(=O)O | ClHO3S
reactant | morpholine | 80 ml | N1CCOCC1 | C4H9NO
solvent | water | 150 ml | O | H2O
product | 9-(4-Morpholinylsulphonyl)-5-oxo-2,3,5,6-tetrahydroimidazo-[1,2-c]-quinazoline | N1(CCOCC1)S(=O)(=O)C1=CC=2C=3N(C(NC2C=C1)=O)CCN3 | C14H16N4O4S
